US07776857B2
A resealable pressure bottle, purged with argon, was charged with 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine (120 mg, 0.28 mmol), bis(triphenylphosphine)palladium(ii) chloride (24 mg, 0.03 mmol), copper(I) iodide (6.4 mg, 0.03 mmol), 3,3-dimethyl-1-butyne (86 μl, 0.70 mmol), and ACN (2.8 mL, 0.1 M). To the mixture was added TEA (0.785 mL, 5.6 mmol). The reaction vessel was sealed and the mixture was heated to 90° C. for 16 h. The reaction mixture was cooled to RT, diluted with DCM and filtered over Celite. The filtrate was concentrated under reduced pressure to give a brown residue, which was purified by Gilson HPLC {5-65% (0.1% TFA in CH3CN) in H2O over 20 min}. The product-containing fractions were combined, basified by addition of aq. NaHCO3 and extracted with DCM. The organic portion was dried with Na2SO4, filtered, and concentrated to afford pure 4-(3,3-dimethylbut-1-ynyl)-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine MS [M+H]=476.1 Calc'd for C29H25N5O2: 475.5.

reactant | 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine | 0.28 mmol, 120 mg | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=CN=C12)OC | C23H16ClN5O2
reactant | 3,3-dimethyl-1-butyne | 0.70 mmol, 86 μl | CC(C#C)(C)C | C6H10
reactant | ACN | 0.1 M, 2.8 mL | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium(ii) chloride | 0.03 mmol, 24 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.03 mmol, 6.4 mg | [Cu]I
product | 4-(3,3-dimethylbut-1-ynyl)-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine | CC(C#CC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=CN=C12)OC)(C)C | C29H25N5O2
